US07923561B2
N5-(3,5-Difluoro-benzyl)-N2-indan-2-yl-quinoline-2,5-diamine
The title compound, MS: m/e=402.4 (M+H+), was prepared in accordance with the general method of example 43 from 5-nitro-2-chloroquinoline, 2-aminoindane and 3,5-difluorobenzaldehyde.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2-aminoindane | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
product | N5-(3,5-Difluoro-benzyl)-N2-indan-2-yl-quinoline-2,5-diamine | FC=1C=C(CNC=2C=3C=CC(=NC3C=CC2)NC2CC3=CC=CC=C3C2)C=C(C1)F | C25H21F2N3
